US05047163
N-(4-Cyanobenzylidene)-4-carboxybenzenesulfonamide (SULF-7)
In a similar manner to Example 2, 1.25 g (9 mmol) of 4-cyanobenzaldehyde, 1.91 g (9 mmol) of 4-carboxybenzenesulfonamide and 20 mg of TsOH in 150 mL of chlorobenzene under nitrogen were heated for 18 hours to give 2.58 g (86%) of SULF-7 as a white powder: IR (Nujol) 3400-2400 (br), 2224, 1682, 1605, 1155 cm-1 ; 1H NMR (DMSO-d6, TMS ext std)δ 9.35 (s, 1), 8.3-7.8 (m, 8).

reactant | 4-cyanobenzaldehyde | 9 mmol, 1.25 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 4-carboxybenzenesulfonamide | 9 mmol, 1.91 g | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N | C7H7NO4S
reactant | TsOH | 20 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | chlorobenzene | 150 mL | ClC1=CC=CC=C1 | C6H5Cl
product | N-(4-Cyanobenzylidene)-4-carboxybenzenesulfonamide | C(#N)C1=CC=C(C=NS(=O)(=O)C2=CC=C(C=C2)C(=O)O)C=C1 | C15H10N2O4S
